US06982278B2
{4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2,6-dipropyl-phenoxy}-acetic acid
A solution of {4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2,6-dipropyl-phenoxy}-acetic acid ethyl ester (244 mg, 0.524 mmol) in THF (3 mL) and MeOH (6 mL) was treated with 2.5N aqueous NaOH (2 mL). The solution was heated at 55° C. for 2.5 h, cooled to ambient temperature, and concentrated in vacuo. The residue was treated with ice water (1 mL) and acidified with 5N aqueous HCl (2 mL). The mixture with CH2Cl2 (3 mL) was transferred to a ChemElute cartridge (5 g) and eluted with CH2Cl2 (40 mL). The eluent was concentrated to a white foam (228 mg, 100%): 1H NMR (400 MHz, CDCl3) δ 0.94 (t, 6H, J=7.3 Hz), 1.60 (sextet, 4H, J=7.6 Hz), 2.37 (s, 3H), 2.50-2.54 (m, 4H), 2.98 (brt, 2H), 4.19 (brt, 2H), 4.37 (s, 2H), 6.56 (s, 2H), 7.42-7.43 (m, 3H), 7.98-7.99 (m, 2H); MS (ES) m/e 438.2 [M+1].

reactant | {4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2,6-dipropyl-phenoxy}-acetic acid ethyl ester | 0.524 mmol, 244 mg | C(C)OC(COC1=C(C=C(C=C1CCC)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC)=O | C28H35NO5
reactant | NaOH | 2.5N, 2 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 6 mL | CO | CH4O
product | {4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2,6-dipropyl-phenoxy}-acetic acid | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC(=C(OCC(=O)O)C(=C1)CCC)CCC | C26H31NO5
